US07459263B2
Finally, 3-butoxycarbonyl-4′-trifluoromethyl-p-terphenyl (CS-18) was prepared. A mixture of butyl 4′-bromobiphenyl-3-carboxylate (1.80 g, 5.4 mmol), 4-trifluoromethylbenzene boronic acid (1.08 g, 5.7 mmol), potassium carbonate (2.24 g, 16 mmol), toluene (30 mL), and 18-crown-6 (20 mg) was deaerated by sparging with nitrogen for 10 min. Tetrakis(triphenylphosphine)-palladium(0) (0.12 g, 0.11 mmol) was added, and the mixture was heated at reflux for 44 h. Additional tetrakis(triphenylphosphine)palladium(0) (0.10 g, 0.10 mmol) was added, and the reaction was continued for 24 h. The mixture was cooled to ambient, and toluene (30 mL) and water (30 mL) were added. The organic layer was separated, washed with water and with brine, dried (MgSO4), passed through short column of silica gel, and concentrated to deposit a gold solid. The product was purified by column chromatography followed by recrystallization from heptane to provide 0.96 g (45% of theory) of a white powder. 1H NMR (CDCl3): δ 1.00 (t, 3H), 1.5 (m, 2H), 1.8 (m, 2H), 4.36 (t, 2H), 7.51 (t, 1H), 7.7 (m, 8H), 7.80 (d, 1H), 8.03 (d, 1H), 8.30 (s, 1H).

reactant | butyl 4′-bromobiphenyl-3-carboxylate | 5.4 mmol, 1.80 g | BrC1=CC=C(C=C1)C1=CC(=CC=C1)C(=O)OCCCC | C17H17BrO2
reactant | 4-trifluoromethylbenzene boronic acid | 5.7 mmol, 1.08 g | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
reactant | potassium carbonate | 16 mmol, 2.24 g | C([O-])([O-])=O.[K+].[K+]
reactant | 18-crown-6 | 20 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
reactant | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Tetrakis(triphenylphosphine)-palladium(0) | 0.11 mmol, 0.12 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.10 mmol, 0.10 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 30 mL | O | H2O
product | 3-butoxycarbonyl-4′-trifluoromethyl-p-terphenyl | C(CCC)OC(=O)C=1C=C(C=CC1)C1=CCC(C=C1)(C1=CC=CC=C1)C(F)(F)F | C24H23F3O2
